US06531502B1
Triphenylphosphine (7.47 g, 19.58 mmol) was added to a solution of 2-cyclohexyl-4-chlorophenol (6 g, 28.48 mmol) and 2-hydroxyethylmorpholine (3.5 g, 28.48 mmol) in tetrahydrofuran (50 ml), followed by the dropwise addition of diethylazodicarboxylate (4.5 ml, 28.48 mmol). The mixture stirred at room temperature for 12 hours. The reaction mixture was concentrated under reduced pressure and triturated with dichloromethane/hexanes and then washed with more hexanes. Chromatography (silica, 10-20-30% ethyl acetate/hexanes) afforded 8.4 g (95%) of 3-cyclohexyl-4-morpholinoethoxy-chlorobenzene as a yellowish oil.

reactant | Triphenylphosphine | 19.58 mmol, 7.47 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-cyclohexyl-4-chlorophenol | 28.48 mmol, 6 g | C1(CCCCC1)C1=C(C=CC(=C1)Cl)O | C12H15ClO
reactant | 2-hydroxyethylmorpholine | 28.48 mmol, 3.5 g | OCCN1CCOCC1 | C6H13NO2
reactant | diethylazodicarboxylate | 28.48 mmol, 4.5 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-cyclohexyl-4-morpholinoethoxy-chlorobenzene | 8.4 g, 95% | C1(CCCCC1)C=1C=C(C=CC1OCCN1CCOCC1)Cl | C18H26ClNO2
